* C:\FOSSEE\eSim\library\SubcircuitLibrary\jk_mux\jk_mux.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 3/7/2025 10:48:37 PM

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U3  Net-_U3-Pad1_ Net-_U3-Pad2_ Net-_U1-Pad5_ Net-_U1-Pad6_ Net-_U1-Pad7_ Net-_U1-Pad8_ Net-_U1-Pad9_ d_jkff		
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad6_ Net-_U1-Pad7_ Net-_U1-Pad8_ Net-_U1-Pad9_ PORT		
U2  Net-_U1-Pad1_ Net-_U2-Pad2_ d_inverter		
X1  Net-_U1-Pad4_ Net-_U1-Pad1_ Net-_U1-Pad3_ Net-_U3-Pad1_ mux		
X2  Net-_U1-Pad4_ Net-_U2-Pad2_ Net-_U1-Pad2_ Net-_U3-Pad2_ mux		

.end
